US05849732
Under ice-cooling, 2.5 g of 1,3-dicyclohexylcarbodiimide (DCC) was added to a mixture of 5.0 g of {2-[3-phenyl-3-(3-carboxypropyl)ureido]-4-methoxy-6-tert-butyl-phenoxy}methoxymethane, 1.4 g of N-hydroxysuccinimide (HOSu) and 50 ml of tetrahydrofuran (THF). The mixture was stirred at room temperature for 5 hours. Insoluble materials were filtered off and the filtrate was condensed. Under ice-cooling, a mixed solution of 1.2 ml of diethylamine and 10 ml of dimethylformamide (DMF) was added dropwise to a mixture of the obtained residue, 1.9 ml of tri-ethylamine and 10 ml of DMF. The resulting mixture was stirred at room temperature overnight. Ethyl acetate was added to the reaction mixture and the mixture was washed and dried, the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (solvent; chloroform:ethyl acetate=1:2) to give 3.95 g of {2-[3-phenyl-3-(3-diethylaminocarbonylpropyl)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane (yield: 70%, state: pale yellow oily product, IR: 3340, 1676, 1635, 1590, 1519 cm-1).

reactant | 1,3-dicyclohexylcarbodiimide | 2.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | {2-[3-phenyl-3-(3-carboxypropyl)ureido]-4-methoxy-6-tert-butyl-phenoxy}methoxymethane | 5.0 g | C1(=CC=CC=C1)N(C(NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C)=O)CCCC(=O)O | C24H32N2O6
reactant | N-hydroxysuccinimide | 1.4 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | diethylamine | 1.2 ml | C(C)NCC | C4H11N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
solvent | tri-ethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | {2-[3-phenyl-3-(3-diethylaminocarbonylpropyl)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane | 3.95 g, yield: 70% | C1(=CC=CC=C1)N(C(NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C)=O)CCCC(=O)N(CC)CC | C28H41N3O5
